US08563575B2
To a mixture of N2-[4-(1,3-benzoxazol-2-ylamino)phenyl]pyridine-2,3-diamine (0.080 g) and triethylamine (0.0638 g) in THF (1.5 mL) at 0° C., was added dropwise a solution of triphosgene (0.030 g) in THF (0.6 ml). The reaction mixture was stirred at 0° C. for 0.5 h. The cold bath was removed and the stirring continued at ambient temperature for another 0.5 h. After this time, a saturated aqueous solution of sodium bicarbonate was added. The organic layer was extracted with ethyl acetate (3×100 mL). The combined organic extracts were washed with brine (50 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue obtained was purified by chromatography (silica, methylene chloride to 0.3:5:95 ammonium hydroxide/methanol/methylene chloride) to afford 3-[4-(1,3-benzoxazol-2-ylamino)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (0.038 g) as a white solid.

reactant | N2-[4-(1,3-benzoxazol-2-ylamino)phenyl]pyridine-2,3-diamine | 0.080 g | O1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)NC2=NC=CC=C2N | C18H15N5O
reactant | triethylamine | 0.0638 g | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 0.030 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.6 ml | C1CCOC1 | C4H8O
product | 3-[4-(1,3-benzoxazol-2-ylamino)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 0.038 g | O1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)N2C(NC=1C2=NC=CC1)=O | C19H13N5O2
